US07361763B2
To a solution of 5-bromo-3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (1.01 g, 2.21 mmol) in a 1:1 acetonitrile/saturated aqueous NaHCO3 solution (20 mL total) was added (3-tert-butoxycarbonylphenyl)boronic acid (0.54 g, 2.43 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II), complex with dichloromethane (1:1) (0.90 g, 0.11 mmol) in a microwave vial. The vial was capped, flushed with N2, evacuated under vacuum, and subsequently heated in a microwave at 90° C. for 1800 seconds. The material was diluted with ethyl acetate and the organic layer was washed with H2O then dried over Na2SO4. The solution was adsorbed onto silica gel and purified by flash chromatography with a gradient of ethyl acetate and hexanes, affording 3-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine-5-yl]-benzoic acid tert-butyl ester as a white solid (1.07 g, 87% yield). 1H NMR (500 MHz, CDCl3) δ 8.68 (s, 1H), 8.17 (br s, 3H), 8.09 (s, 1H), 7.99 (m, 2H), 7.71 (d, J=6.5 Hz, 1H), 7.50 (m, 2H), 7.34 (t, J=8.0 Hz, 1H), 7.32 (d, J=6.5 Hz, 2H), 7.06 (m, 2H), 3.88 (s, 3H), 2.39 (s, 3H), 1.60 (s, 9H). MS: m/e 555.1 (M+H+).

reactant | 5-bromo-3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 2.21 mmol, 1.01 g | BrC=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C21H17BrN2O3S
reactant | (3-tert-butoxycarbonylphenyl)boronic acid | 2.43 mmol, 0.54 g | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)B(O)O | C11H15BO4
reactant | dichloromethane | 0.11 mmol, 0.90 g | ClCCl | CH2Cl2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine-5-yl]-benzoic acid tert-butyl ester | 1.07 g, 87% yield | C(C)(C)(C)OC(C1=CC(=CC=C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)=O | C32H30N2O5S
